US08729102B2
A) tert-butyl [(1S)-2-{[5-fluoro-6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate
A mixture of 5-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-3-fluoropyridine-2-carboxylic acid (5.00 g), 4-aminobenzene-1,3-diol hydrochloride (2.57 g), HATU (6.05 g), N,N-diisopropylethylamine (5.56 mL), and DMF (50 mL) was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate (2.51 g) as a mixture with impurities. Triethylamine (6.64 mL) was added to a solution of hexachloroethane (3.53 g) and triphenylphosphine (4.69 g) in acetonitrile (25 mL) at room temperature. The mixture was stirred at room temperature for 10 min. Then a mixture of tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate (2.51 g, a mixture with impurities) and acetonitrile (25 mL) was added, and the mixture was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (0.770 g) as a pale yellow solid.

reactant | Triethylamine | 6.64 mL | C(C)N(CC)CC | C6H15N
reactant | hexachloroethane | 3.53 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | triphenylphosphine | 4.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate | OC1=C(C=CC(=C1)O)NC(=O)C1=C(C=C(C=N1)OC[C@H](C)NC(OC(C)(C)C)=O)F | C20H24FN3O6
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | tert-butyl [(1S)-2-{[5-fluoro-6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate | 0.770 g | FC=1C=C(C=NC1C=1OC2=C(N1)C=CC(=C2)O)OC[C@H](C)NC(OC(C)(C)C)=O | C20H22FN3O5
